US04721784
6-(3,4-Dihydro-4-methanesulfonyl-1,4(2H)-benzoxazin-6-yl)-2,3,4,5-tetrahydro-2-methylpyridazin-3-one
6-(3,4-Dihydro-4-methanesulfonyl-1,4(2H)-benzoxazin-6-yl)-2,3,4,5-tetrahydropyridazin-3-one (3 g) was suspended in 50 ml of dimethylformamide and one equivalent of 60% sodium hydride in oil was added. When gas evolution ceased, one equivalent of methyl iodide was added and the mixture allowed to stand for 1.5 hours followed by one hour at 40° C. The mixture was cooled and then poured into 200 ml of ice water, giving a precipitate that was collected by filtration, washed with water and recrystallized from ethanol. The material was further purified by chromatography on silica gel eluted with 1:1 EtOAc:Et2O yielding 0.97 g of the title product, mp 162°-165° C.

reactant | 6-(3,4-Dihydro-4-methanesulfonyl-1,4(2H)-benzoxazin-6-yl)-2,3,4,5-tetrahydropyridazin-3-one | 3 g | CS(=O)(=O)N1CCOC2=C1C=C(C=C2)C=2CCC(NN2)=O | C13H15N3O4S
reactant | sodium hydride | one equivalent | [H-].[Na+]
reactant | methyl iodide | one equivalent | CI | CH3I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-(3,4-Dihydro-4-methanesulfonyl-1,4(2H)-benzoxazin-6-yl)-2,3,4,5-tetrahydro-2-methylpyridazin-3-one | CS(=O)(=O)N1CCOC2=C1C=C(C=C2)C=2CCC(N(N2)C)=O | C14H17N3O4S
